US05656762
To a solution of 1 g of 1 methyl-2-phenylimidazole in 10 mL acetic acid were added 0.4 mL of 37% aqueous formaldehyde and 1.2 mL of 4-benzylpiperidine. The reaction mixture was heated at 100° C. for 10 hours and the acetic acid then removed by evaporated under reduced pressure. The residue was dissolved in water and made alkaline with 5% sodium hydroxide and extracted with 2×100 mL of dichloromethane. The combined extracts were dried over anhydrous sodium sulfate and concentrated to small volume under reduced pressure to give 1 methyl-2-phenyl-4-[(4-benzylpiperidin-1-yl)methyl]-imidazole.

reactant | methyl-2-phenylimidazole | CC=1N=C(NC1)C1=CC=CC=C1 | C10H10N2
reactant | formaldehyde | 0.4 mL | C=O | CH2O
reactant | 4-benzylpiperidine | 1.2 mL | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | methyl-2-phenyl-4-[(4-benzylpiperidin-1-yl)methyl]-imidazole | CC1=C(N=C(N1)C1=CC=CC=C1)CN1CCC(CC1)CC1=CC=CC=C1 | C23H27N3
